US06133258
A mixture of 658 mg (2 mmol) of [2-[(4-chlorophenyl)imino]-2,3-dihydro-4-oxo-4H-pyrido[3,2-e]-1,3-thiazin-3-yl]acetonitrile and 8 ml of DMF was put in a 50 ml flask. To the mixture were then added 1.30 g of sodium azide and 1.07 g of ammonium chloride with stirring. The mixture was then stirred at a temperature of 120° C. for 4 hours. The resulting reaction mixture was allowed to cool, poured into water, and then extracted with ethyl acetate. The resulting organic phase was separated, washed with water and saturated brine, and then dried over sodium sulfate. The drying agent was then removed by filtration. The filtrate was then concentrated under reduced pressure. The resulting residue was then washed with cold ethanol to obtain 512 mg of 2,3-dihydro-[2-((4-chlorophenyl)imino]-3-(1H-tetrazol-5-ylmethyl)-4H-pyrido[3,2-e]-1,3-thiazin-4-one.

reactant | [2-[(4-chlorophenyl)imino]-2,3-dihydro-4-oxo-4H-pyrido[3,2-e]-1,3-thiazin-3-yl]acetonitrile | 2 mmol, 658 mg | ClC1=CC=C(C=C1)N=C1SC2=C(C(N1CC#N)=O)C=CC=N2 | C15H9ClN4OS
reactant | DMF | 8 ml | CN(C)C=O | C3H7NO
reactant | sodium azide | 1.30 g | [N-]=[N+]=[N-].[Na+]
reactant | ammonium chloride | 1.07 g | [Cl-].[NH4+]
solvent | water | O | H2O
product | 2-((4-chlorophenyl)imino]-3-(1H-tetrazol-5-ylmethyl)-4H-pyrido[3,2-e]-1,3-thiazin-4-one | ClC1=CC=C(C=C1)N=C1SC2=C(C(N1CC1=NN=NN1)=O)C=CC=N2 | C15H10ClN7OS
